US03975443
A mixture of 2-methylamino-2-methylpropionitrile (14.7 g., 0.15 mole) allyl bromide (18.0 g., 0.15 mole), sodium carbonate (15.9 g., 0.15 mole), sodium iodide (0.2 g., 0.001 mole) and methyl ethyl ketone (200 ml.) was heated under reflux for 40 hrs. The sodium carbonate was filtered off and the solvent was removed from the filtrate in vacuo to give a yellow oil, T.L.C. (Silica, ether), three components RF 0.8, 0.4 and 0.0. The oil was passed through a column of silica 40 × 3.5 cm. using ether as an eluent to give 2-allylmethylamino-2-methylpropionitrile (10.0 g., 48%).

reactant | 2-methylamino-2-methylpropionitrile | 0.15 mole, 14.7 g | CNC(C#N)(C)C | C5H10N2
reactant | allyl bromide | 0.15 mole, 18.0 g | C(C=C)Br | C3H5Br
reactant | sodium carbonate | 0.15 mole, 15.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl ethyl ketone | 200 ml | C(C)C(=O)C | C4H8O
solvent | ether | CCOCC | C4H10O
catalyst | sodium iodide | 0.001 mole, 0.2 g | [I-].[Na+]
product | 2-allylmethylamino-2-methylpropionitrile | 10.0 g, 48% | C(C=C)CNC(C#N)(C)C | C8H14N2
